US07994164B2
Azetidin-3-yl-(4-bromo-2-nitro-phenyl)-amine, hydrochloride
Stir a solution of 3-(4-bromo-2-nitro-phenylamino)-azetidine-1-carboxylic acid tert-butyl ester (29.66 mmol, 11.04 g) in 4.0 M hydrogen chloride in dioxane (40 mL) at room temperature under nitrogen overnight. Solids crash out of solution. Dilute with ether (200 mL), filter off solids, rinse with ample ether and dry (8.54 g, 93%). 1H NMR (400 MHz, CD3OD): 4.12 (dd, 2H), 4.45 (dd, 2H), 4.72 (m, 1H), 6.76 (d, 1H), 7.62 (dd, 1H), 8.30 (d, 1H). LC-MS m/z (79Br/81Br) 272.0/274.0 [M+H]+.

reactant | 3-(4-bromo-2-nitro-phenylamino)-azetidine-1-carboxylic acid tert-butyl ester | 29.66 mmol, 11.04 g | C(C)(C)(C)OC(=O)N1CC(C1)NC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C14H18BrN3O4
reactant | hydrogen chloride | 4.0 M | Cl | ClH
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | ether | 200 mL | CCOCC | C4H10O
product | Azetidin-3-yl-(4-bromo-2-nitro-phenyl)-amine, hydrochloride | Cl.N1CC(C1)NC1=C(C=C(C=C1)Br)[N+](=O)[O-] | InChI=1S/C9H10BrN3O2.ClH/c10-6-1-2-8(9(3-6)13(14)15)12-7-4-11-5-7;/h1-3,7,11-12H,4-5H2;1H
